US05278174
5-[4-(4-Hydroxypiperidinyl)butoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by the method of Example 21 from 5-hydroxyflavone, 1-bromo-4-chlorobutane, and 4-hydroxypiperidine: mp 161°-163° C.

reactant | 5-hydroxyflavone | OC1=C2C(C=C(OC2=CC=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 5-[4-(4-Hydroxypiperidinyl)butoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride | Cl.OC1CCN(CC1)CCCCOC1=CC=CC2=C1C(C=C(O2)C2=CC=CC=C2)=O | InChI=1S/C24H27NO4.ClH/c26-19-11-14-25(15-12-19)13-4-5-16-28-21-9-6-10-22-24(21)20(27)17-23(29-22)18-7-2-1-3-8-18;/h1-3,6-10,17,19,26H,4-5,11-16H2;1H
